US07173031B2
B) tert-Butyl 4-(2-fluoro-4-nitrophenoxy)-3-iodo-1H-pyrrolo[2,3-b]pyridine-1-carboxylate
To a solution of 4-(2-fluoro-4-nitrophenoxy)-3-iodo-1H-pyrrolo[2,3-b]pyridine (400 mg, 1 mmol) in DMF (10 mL) at −40° C. under N2 was added NaH (60% in mineral oil, 1.2 mmol). The mixture was stirred at 0° C. for 20 min, and cooled to −40° C. To this mixture, was added Boc2O (330 mg, 1.5 mmol). The mixture was stirred at −40° C. for 1 h, diluted with 5% aq. sodium citrate solution, extracted with EtOAc. The organic layer was dried over MgSO4 and concentrated in vacuo. The crude compound was purified by flash column chromatography (silica gel, 20% EtOAc/CH2Cl2) to give the desired compound (460 mg, 92%) as a yellow solid. LC/MS(ESI+) m/z 500 (M+H)+.

reactant | 4-(2-fluoro-4-nitrophenoxy)-3-iodo-1H-pyrrolo[2,3-b]pyridine | 1 mmol, 400 mg | FC1=C(OC2=C3C(=NC=C2)NC=C3I)C=CC(=C1)[N+](=O)[O-] | C13H7FIN3O3
reactant | NaH | 1.2 mmol | [H-].[Na+]
reactant | Boc2O | 1.5 mmol, 330 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | sodium citrate | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
product | tert-Butyl 4-(2-fluoro-4-nitrophenoxy)-3-iodo-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 460 mg, 92% | FC1=C(OC2=C3C(=NC=C2)N(C=C3I)C(=O)OC(C)(C)C)C=CC(=C1)[N+](=O)[O-] | C18H15FIN3O5
